US05455273
g) trans-N-cyclohexyl-4-phenylcyclohexylamine
from 4-phenylcyclohexanone and cyclohexylamine. Melting point: 68°-70° C.

reactant | 4-phenylcyclohexanone | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | trans-N-cyclohexyl-4-phenylcyclohexylamine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)C1=CC=CC=C1 | C18H27N
